Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
iodine
 
Attending: ___
 
Chief Complaint:
Right-sided weakness, slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with unknown PMH who
presents with acute onset slurred speech, R sided weakness, and 
R
sided numbness. He is visiting from ___ for a ___ game and had
imbibed 10 beers and 2 shots. His friend went to get something 
to
eat, and when he got back at 4pm, he found Mr ___ slumped on
the R side leaning against a column with slurred speech saying
that he cannot feel his right side. He was brought to ___ 
where
a code stroke was called. EtOH level was 320.

Pt was unable to give a coherent history but did mention that he
had a TIA ___ years ago with similar symptoms. He was supposed to
be on ASA 81mg daily, but he does not take this. He has not seen
a doctor in at least ___ years, and his friend did not know him
well enough to tell the team his medical history. Apparently has
an allergy to contrast dye. 

NIHSS initially 5 for ED but on re-examination was 3 for
bilateral ataxia and R pronator drift 
 
Past Medical History:
- TIA ___ years ago with R sided weakness and numbness; also 
transiently (<10 mins) 1.5 months ago while dancing. 
- Cholecystectomy ___ years ago

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
=== INITIAL EXAM ===
- Mental status: Awake, alert, oriented to self, hospital, ___,
and age. Unable to relate history well. Inattentive, tangential,
making inappropriate comments. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact. No paraphasias. No dysarthria. Normal prosody. No
apraxia. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. +R pronator drift. No tremor or
asterixis. Difficult to do formal motor exam as pt was not
following instructions well. ___ in bilateral deltoid, biceps,
triceps, IP, and quad. L hamstring ___, R hamstring 4+/5,
bilateral TA and gastroc ___. 

- Reflexes: unable to obtain, pt refused

- Sensory: No deficits to light touch or pinprick throughout. No
exinction to DSS.

- Coordination: bilateral dysmetria on FNF

- Gait: unable to assess ___ pt cooperation, per nurse, he was
lilting to the right when walking to the bathroom

=== DISCHARGE EXAM === 
Improved to baseline. Essentially normal. Fully alert and 
oriented to personal history and medical details. Normal speech, 
fluent, no dysarthria. No cranial nerve abnormalities. ___ 
strength in all upper and lower limb muscle groups. No drift. 
Normal tone.  Normal gait. No upper or lower limb ataxia. 
 
Pertinent Results:
=== LABS ===
___ 10:34AM BLOOD WBC-6.6 RBC-4.57* Hgb-14.2 Hct-40.9 
MCV-90 MCH-31.1 MCHC-34.7 RDW-13.2 RDWSD-43.6 Plt ___
___ 10:34AM BLOOD Neuts-72.7* ___ Monos-5.3 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-4.79 AbsLymp-1.34 
AbsMono-0.35 AbsEos-0.05 AbsBaso-0.03
___ 01:27PM BLOOD ___ PTT-26.2 ___
___ 10:34AM BLOOD Plt ___
___ 01:27PM BLOOD ProtCFn-PND ProtSFn-PND
___ 01:27PM BLOOD Lupus-PND
___ 10:34AM BLOOD Glucose-73 UreaN-9 Creat-0.8 Na-141 K-4.0 
Cl-106 HCO3-21* AnGap-18
___ 05:30PM BLOOD Creat-1.3*
___ 10:34AM BLOOD ALT-24 AST-28 LD(LDH)-191 AlkPhos-60 
TotBili-0.6
___ 10:34AM BLOOD Albumin-4.2 Calcium-8.7 Phos-2.3* Mg-2.0 
Cholest-199
___ 07:26PM BLOOD %HbA1c-5.0 eAG-97
___ 10:34AM BLOOD Triglyc-94 HDL-57 CHOL/HD-3.5 LDLcalc-123
___ 05:20PM BLOOD TSH-1.1
___ 05:20PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:30PM BLOOD Glucose-93 Na-139 K-3.6 Cl-103 calHCO3-22

=== IMAGING === 
- NCHCT: No acute intracranial abnormality

- TTE ___
The left atrial volume index is normal. No atrial septal defect 
is seen on color flow Doppler, but there is early appearance of 
agitated saline/microbubbles in the left atrium/ventricle at 
rest most consistent with an atrial septal defect or stretched 
patent foramen ovale (though a very proximal intrapulmonary 
shunt cannot be fully excluded). The estimated right atrial 
pressure is ___ mmHg. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
systolic function (3D LVEF = 57 %). Right ventricular chamber 
size and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The number of aortic valve leaflets 
cannot be determined. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
 IMPRESSION: 
 1) ASD/stretched PFO present.
 2) Mild symmetric left ventricular hypertrophy with normal 
biventricular regional/global systolic function and type I 
diastolic dysfunction.  

- MRI/MRA Brain and Neck WO Contrast ___. No acute intracranial abnormalities identified. 
2. Unremarkable MRA of the brain and neck. 

- Bilateral Lower Extremity Doppler ___
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

- MRV Pelvis ___
Negative for thrombus

 
Brief Hospital Course:
Mr ___ is a ___ man with history of TIA ___ y.a.), poor 
medical follow-up (none for ___ yrs.), who presented with acute 
onset dysarthria, R sided weakness and numbness. He came in 
acutely intoxicated (ethanol ___ from a Redsox game. Prior TIA 
___ years ago also right-sided symptoms; also had similar 
symptoms 1.5 months ago while dancing. CT negative for acute 
stroke (CTA not done due to possible contrast allergy). Admitted 
for workup of TIA. His symptoms improved rapidly and he was at 
baseline by the morning following admission. MRI/MRA was 
negative for any acute intracranial processes or vascular 
abnormalities. TTE showed stretched ASD/PFO (only with 
Valsalva). Lower extremity Dopplers were negative for DVT.  An 
MRV of the pelvic veins was done, which found no thrombus. 

He was discharged on aspirin 81mg (which he was supposed to be 
taking since his prior TIA, but had stopped), lisinopril 10mg 
DAILY (for SBPs 150s-170s), and simvastatin 40mg DAILY. He does 
not have insurance so simvastatin was chosen in lieu of 
atorvastatin, as it is on the low-cost medication formulary. 

Follow-up is planned with his PCP back in his home state of 
___. He is also to follow-up with Dr. ___ 
neurology) here, once he obtains insurance. He has 
hypercoagulability labs that were drawn in the hospital and are 
pending. Cardiac monitoring with a 30-day event monitor will be 
deferred for now until we have clearer picture and he has 
established follow up. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 122) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Lisinopril 10 mg PO DAILY  
3.  Simvastatin 40 mg PO DAILY

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of weakness and speech 
difficulties resulting from an TRANSIENT ISCHEMIC ATTACK, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot, but resolves before any 
permanent damage is done. The brain is the part of your body 
that controls and directs all the other parts of your body, so 
damage to the brain from being deprived of its blood supply can 
result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- High Cholesterol
- High Blood Pressure
- Alcohol Use

We are changing your medications as follows:  
- START aspirin 81mg DAILY
- START lisinopril 10mg DAILY  
- START simvastatin 40mg DAILY

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

 
Followup Instructions:
___